US06936306B1
Synthesis of Methoxyacetate-alumoxane (MA-A)
Pseudoboehmite (10.0 g) and methoxyacetic acid (25.6 mL) were refluxed in water (150 mL) for 24 h. which resulted in a white cloudy solution with a trace of insoluble particles. The water was removed in vacuo (10−2 Torr) at 50° C. resulting in a white powder which was washed with diethyl ether (4×150 mL) then dissolved in ethanol (100 mL) while stirring (50 minutes). The alumoxane was precipitated via the addition of ether (300 mL). After drying overnight at 50° C. the solid yield was approximately 20 g. The powder was dissolved in water (100 mL), isolated by filtration, concentrated under vacuum and dried at 50° C. resulting in a white solid material. The alumoxane was heated from 25° C. to 225° C. at the rate of 1° C./min., soaked for 30 mins. at 225° C., followed by a temperature ramp up to 300° C. at the rate of 2° C./min., and soaked for 80 mins., with a final ramp to the maximum temperature of 1100° C. (over 360 minutes) which was then maintained for 400 minutes.

reactant | methoxyacetic acid | 25.6 mL | COCC(=O)O | C3H6O3
reactant | alumoxane | [AlH]1OCCCC1
solvent | water | 150 mL | O | H2O
product | Methoxyacetate alumoxane | COCC(=O)[O-].[AlH]1OCCCC1 | InChI=1S/C4H8O.C3H6O3.Al.H/c1-2-3-4-5;1-6-2-3(4)5;;/h1-4H2;2H2,1H3,(H,4,5);;/q-1;;+1;/p-1
